US07384952B2
To a solution of malononitrile (28.2 g) in methanol (30 mL) is added a suspension of acetoin (25 g) in methanol (30 mL) and thereto is added dropwise diethylamine (11 mL) under ice-cooling (internal temp.: 10° C.). The mixture is stirred at room temperature for 3 hours. The reaction mixture is poured into ice water (300 mL) and the precipitated crystals are collected by filtration to give 2-amino-4,5-dimethyl-3-furonitrile (28.91 g, yield; 75%) as colorless crystals.

reactant | malononitrile | 28.2 g | C(CC#N)#N | C3H2N2
reactant | acetoin | 25 g | OC(C(C)=O)C | C4H8O2
reactant | diethylamine | 11 mL | C(C)NCC | C4H11N
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
product | 2-amino-4,5-dimethyl-3-furonitrile | 28.91 g, yield; 75% | NC=1OC(=C(C1C#N)C)C | C7H8N2O
